US04640911
In a manner analogous to that described in Stage 15.4, from 3.24 g (6.7 mmol) of N-benzyloxycarbonyl-L-alanine-3-[2-(4-isobutylphenyl)-propionylamino]-2-hydroxypropylamide by means of catalytic hydrogenation [1 g of palladium-on-carbon (10% palladium), 15 minutes, room temperature, normal pressure] in methanol at pH 7 (titration with 1N hydrochloric acid), there is obtained L-alanine-3-[2-(4-isobutylphenyl)-propionylamino]-2-hydroxypropylamide hydrochloride in the form of colourless crystals which decompose at 88° and above (triturated with diethyl ether) and contain 0.43 mol of water; [α]D20 =+8.3± 0.9° (c=1.065; methanol), Rf =0.30 (chloroform:methanol=4:1), Rf =0.58 (chloroform:methanol:water=70:30:5).

reactant | N-benzyloxycarbonyl-L-alanine-3-[2-(4-isobutylphenyl)-propionylamino]-2-hydroxypropylamide | 6.7 mmol, 3.24 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)NCC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)O)C | C27H37N3O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | L-alanine-3-[2-(4-isobutylphenyl)-propionylamino]-2-hydroxypropylamide hydrochloride | Cl.C(C(C)C)C1=CC=C(C=C1)C(C(=O)NCC(CNC([C@@H](N)C)=O)O)C | InChI=1S/C19H31N3O3.ClH/c1-12(2)9-15-5-7-16(8-6-15)13(3)18(24)21-10-17(23)11-22-19(25)14(4)20;/h5-8,12-14,17,23H,9-11,20H2,1-4H3,(H,21,24)(H,22,25);1H/t13?,14-,17?;/m0./s1
